US07858640B2
8-chloro-5-hydroxy-3-(4-methanesulfonylbenzyl)-4-methyl-1H-quinolin-2-one
A mixture of N-(2-chloro-5-hydroxyphenyl)-2-(4-methanesulfonylbenzyl)-3-oxo-butyramide (0.25 g) and methanesulfonic acid (1.1 g) was heated at 100° C. for 10 minutes. The mixture cooled to room temperature and poured into a saturated aqueous solution of sodium acetate (20 mL). The resulting precipitate was collected by filtration, washed with water and dried to afford title compound as a pale pink solid, 0.21 g.

reactant | N-(2-chloro-5-hydroxyphenyl)-2-(4-methanesulfonylbenzyl)-3-oxo-butyramide | 0.25 g | ClC1=C(C=C(C=C1)O)NC(C(C(C)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C18H18ClNO5S
reactant | methanesulfonic acid | 1.1 g | CS(=O)(=O)O | CH4O3S
solvent | sodium acetate | 20 mL | C(C)(=O)[O-].[Na+]
product | 8-chloro-5-hydroxy-3-(4-methanesulfonylbenzyl)-4-methyl-1H-quinolin-2-one | ClC=1C=CC(=C2C(=C(C(NC12)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C)O | C18H16ClNO4S
